US06777406B2
(±)-trans-N-(2,3-dichlorophenyl)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine
Using 2,3-dichlorobromobenzene and following the procedures described in EXAMPLE 72, (±)-trans tert-butyl 2-amino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate was converted into the title compound of EXAMPLE 74 as an off-white powder. 1H NMR (300 MHz, CDCl3) δ 1.25 (br s, 1H), 1.95-2.05 (m, 2H), 2.10-2.30 (m, 1H), 2.80 (m, 4H), 2.95 (t, 1H, J=9.5 Hz), 3.30-3.55 (m, 5H), 3.54 (dd, 1H, J=9.5, 7.0 Hz), 5.93 (br s, 1H), 6.50 (s, 1H), 6.71 (s, 2H), 6.74-6.79 (m, 1H), 6.92 (t, 1H, J=8.1 Hz). LRMS (ES)+: 374 (M+H)+.

reactant | 2,3-dichlorobromobenzene | ClC1=C(C=CC=C1Cl)Br | C6H3BrCl2
reactant | (±)-trans tert-butyl 2-amino-5,6,8a,9,11,11a-hexahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinoline-10(8H)-carboxylate | NC=1C=C2[C@H]3[C@H](CN4C2=C(C1)CCC4)CN(C3)C(=O)OC(C)(C)C | C19H27N3O2
product | (±)-trans-N-(2,3-dichlorophenyl)-5,6,8,8a,9,10,11,11a-octahydro-4H-pyrido[3,2,1-ij]pyrrolo[3,4-c]quinolin-2-amine | ClC1=C(C=CC=C1Cl)NC=1C=C2[C@H]3[C@H](CN4C2=C(C1)CCC4)CNC3 | C20H21Cl2N3
